US08791107B2
PREPARATION x43: 2-chloro-5-(6-methoxy-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
The title compound was prepared in a manner similar to PREPARATION x35 using 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide (PREPARATION x42, 472 mg, 1.009 mmol), Xantphos (43.8 mg, 0.076 mmol), potassium phosphate (214 mg, 1.009 mmol) and palladium(II)acetate (11.33 mg, 0.050 mmol) in dioxane (5 mL) and tert-butanol (1 mL). ESI-MS m/z [M+H]+ calc'd for C19H19ClN4O3, 387.11. found 387.4.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide | 1.009 mmol, 472 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)NC1CCC2=CC=C(C=C12)OC | C19H20BrClN4O3
reactant | Xantphos | 0.076 mmol, 43.8 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | 1.009 mmol, 214 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium(II)acetate | 0.050 mmol, 11.33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-5-(6-methoxy-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | ClC1=NC=2N3C(C(N(C2C=N1)C1CCC2=CC=C(C=C12)OC)=O)COCC3 | C19H19ClN4O3
